US05190934
A solution of 5.0 g of 2-cyano-1-fluoro-ethenyl(n-butyl)phosphinic acid and 10 ml of liquid ammonia in 150 ml of absolute ethanol is treated with 0.75 g of 5% rhodium on charcoal. The suspension is shaken under hydrogen (20 bars) at 20° C. until thin-layer chromatography indicates complete reaction. The catalyst is removed by filtration and the filtrate is evaporated in vacuo to give a solid. Crystallisation from ethanol/acetone affords 3-amino-1-fluoro-propyl(n-butyl)phosphinic acid.

reactant | 2-cyano-1-fluoro-ethenyl(n-butyl)phosphinic acid | 5.0 g | C(#N)C=C(F)P(O)(=O)CCCC | C7H11FNO2P
reactant | ammonia | N | H3N
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | rhodium | 0.75 g | [Rh] | Rh
product | 3-amino-1-fluoro-propyl(n-butyl)phosphinic acid | NCCC(F)P(O)(=O)CCCC | C7H17FNO2P
